US07385085B2
A 1.0 M solution of tetrabutylammonium fluoride in tetrahydrofuran (15.0 mL, 15.0 mmol) was added to 1-(3-tert-butyl-phenyl)-3-methylene-cyclohexanecarboxylic acid 2-trimethylsilanyl-ethyl ester (2.67 mg, 7.16 mmol). After stirring for 16 h, the solution was concentrated, diluted with 10% aqueous hydrochloric acid, and extracted with diethyl ether. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated to yield 2.09 g (100% yield) of 1-(3-tert-butyl-phenyl)-3-methylene-cyclohexanecarboxylic acid as a yellow oil.

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 15.0 mmol, 15.0 mL | O1CCCC1 | C4H8O
reactant | 1-(3-tert-butyl-phenyl)-3-methylene-cyclohexanecarboxylic acid 2-trimethylsilanyl-ethyl ester | 7.16 mmol, 2.67 mg | C[Si](CCOC(=O)C1(CC(CCC1)=C)C1=CC(=CC=C1)C(C)(C)C)(C)C | C23H36O2Si
product | 1-(3-tert-butyl-phenyl)-3-methylene-cyclohexanecarboxylic acid | 2.09 g, 100% yield | C(C)(C)(C)C=1C=C(C=CC1)C1(CC(CCC1)=C)C(=O)O | C18H24O2
